US06992094B1
Ethyl 4-(3-hydroxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanyl)benzoate
A mixture of ethyl 4-(3-methoxyethoxymethoxy5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanyl)benzoate (2.3 g, 4.4 mmol), concentrated sulphuric acid (475 μl), methanol (40 ml) and THF (20 ml)is stirred for 48 h at room temperature. The reaction medium is extracted with ethyl ether. The organic phase is washed twice with water, dried over magnesium sulphate and concentrated on a rotary evaporator under vacuum. The product is purified by crystallization from heptane. 2.06 g (97%) of the expected compound are obtained in the form of an orange-coloured powder. m.p.=113° C.

reactant | ethyl 4-(3-methoxyethoxymethoxy5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanyl)benzoate | 4.4 mmol, 2.3 g | COCCOCOC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)[Se]C1=CC=C(C(=O)OCC)C=C1 | C27H36O5Se
reactant | sulphuric acid | 475 μl | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 40 ml | CO | CH4O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | Ethyl 4-(3-hydroxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanyl)benzoate | 2.06 g, 97% | OC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)[Se]C1=CC=C(C(=O)OCC)C=C1 | C23H28O3Se
